US07491724B2
Part 3. Tert-butyl(2S,3S)-2-[4-(4-cyano-3,5-dimethylphenyl)-3,6-dihydropyridin-1(2H)-yl]carbonyl-5,5-difluoropiperidine-3-carboxylate
To a mixture of (2S,3S)-3-(tert-butoxycarbonyl)-5,5-difluoropiperidine-2-carboxylic acid (48 mg, 0.00018 mol) and 2,6-dimethyl-4-(1,2,3,6-tetrahydropyridin-4-yl)benzonitrile hydrochloride (84.7 mg, 0.000217 mol) TFA salt in N, N-dimethylformamide (0.406 mL, 0.00524 mol) was added benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (96.0 mg, 0.000217 mol), followed by N, N-diisopropylethylamine (0.0756 mL, 0.000434 mol). The mixture was stirred at rt overnight, then quenched with aq. sodium bicarbonate. The mixture was extracted with EtOAc. The combined organic layers were washed with water, brine, dried, and evaporated to dry. The residue was used directly in next step without further purification. LCMS (M+H) 460.2.

reactant | (2S,3S)-3-(tert-butoxycarbonyl)-5,5-difluoropiperidine-2-carboxylic acid | 0.00018 mol, 48 mg | C(C)(C)(C)OC(=O)[C@@H]1[C@H](NCC(C1)(F)F)C(=O)O | C11H17F2NO4
reactant | 2,6-dimethyl-4-(1,2,3,6-tetrahydropyridin-4-yl)benzonitrile hydrochloride | 0.000217 mol, 84.7 mg | Cl.CC1=C(C#N)C(=CC(=C1)C=1CCNCC1)C
reactant | N, N-dimethylformamide | 0.00524 mol, 0.406 mL | CN(C=O)C | C3H7NO
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.000217 mol, 96.0 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N, N-diisopropylethylamine | 0.000434 mol, 0.0756 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | Tert-butyl(2S,3S)-2-[4-(4-cyano-3,5-dimethylphenyl)-3,6-dihydropyridin-1(2H)-yl]carbonyl-5,5-difluoropiperidine-3-carboxylate | C(#N)C1=C(C=C(C=C1C)C=1CCN(CC1)C(=O)[C@H]1NCC(C[C@@H]1C(=O)OC(C)(C)C)(F)F)C | C25H31F2N3O3
